US07868001B2
A mixture of 0.5 mmol 3-(imidazo[1,2-b]pyridazin-2-yl)benzonitrile, 1 mmol NH2OH.HCl and 1 mmol Et3N in EtOH was stirred at reflux for 4 h then cooled. Excess of solvent was removed in vacuo to afford the crude product. 2-chloroacetyl chloride (2 mmol) was added to the mixture solution of the crude product in Toluene (15 ml) at room temperature and then the mixture was heated to reflux for 5 h. The mixture was concentrated in vacuo and the crude product was purified by column chromatography on silica gel to give the 2-(3-(5-(chloromethyl)-1,2,4-oxadiazol-3-yl)phenyl)imidazo[1,2-b]pyridazine.

reactant | 3-(imidazo[1,2-b]pyridazin-2-yl)benzonitrile | 0.5 mmol | N=1C(=CN2N=CC=CC21)C=2C=C(C#N)C=CC2 | C13H8N4
reactant | NH2OH.HCl | 1 mmol | NO.Cl
reactant | Et3N | 1 mmol | CCN(CC)CC | C6H15N
reactant | 2-chloroacetyl chloride | 2 mmol | ClCC(=O)Cl | C2H2Cl2O
solvent | EtOH | CCO | C2H6O
solvent | Toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-(5-(chloromethyl)-1,2,4-oxadiazol-3-yl)phenyl)imidazo[1,2-b]pyridazine | ClCC1=NC(=NO1)C=1C=C(C=CC1)C=1N=C2N(N=CC=C2)C1 | C15H10ClN5O
